

.SUBCKT vadd2 A B C
  ESUM	C 0 VALUE = { (V(A)+V(B)) }
  * RX A C 0

.ENDS vadd2

.SUBCKT vmul2 A B C
  ESUM	C 0 VALUE = { (V(A)*V(B)) }

.ENDS vmul2

.SUBCKT vout A B
  RX A B 0

.ENDS vout


.SUBCKT vin A B
  RX A B 0
.ENDS vin
