.INCLUDE none.lib

.SUBCKT vadd2 A B C
  ESUM	CNN 0 VALUE = { (V(A)+V(B)) }
  XNOISE CNN CR vnoise
  XCLMP CR C vclamp

.ENDS vadd2

.SUBCKT vmul2 A B C
  ESUM	CNN 0 VALUE = { (V(A)*V(B)) }
  XNOISE CNN CR vnoise
  XCLMP CR C vclamp
.ENDS vmul2

.SUBCKT vout A B
  RX A B 0
.ENDS vout


.SUBCKT vin A B
  RX A B 0
.ENDS vin
